* ============================================================
* Load dump -- ISO 7637-2 pulse 5b (suppressed/clamped) into the
* battery input, same protection stage as transient_clamp.cir
* ============================================================
* Pulse 2a is a 50 us blip. This pulse is up to 400 ms -- four
* orders of magnitude longer. That changes which physical limit
* the TVS hits: pulse 2a is a PEAK CURRENT problem, this is a
* dissipated-ENERGY / thermal problem, and a part that sails
* through 2a can cook on 5b. See the RESULT NOTE.
*
* THE UNRESOLVED QUESTION THIS BLOCK RESTS ON -- read this before
* the numbers below:
*
* Pulse 5b only exists if the alternator's rectifier is a
* suppressed/avalanche type that clamps its own output when the
* battery is disconnected under charge. Nobody has confirmed that
* for THIS genset's alternator -- it is not on the unknowns
* register (docs/superpowers/specs/2026-09-13-ecu-reconciled-spec-design.md
* section 8) and no datasheet or nameplate has been read for it.
* If the alternator is NOT suppressed, the real event is pulse 5a:
* 65-87 V unclamped (ISO 7637-2:2011 table), a completely different
* and much harder survivability problem that this block does not
* simulate. Spec section 6 (line 441-442) states the input range
* 6-40 V "bounds the clamped load-dump transient" -- that sentence
* is only true under the suppressed-alternator assumption. Settling
* this needs either the alternator's datasheet (look for a
* suppression/avalanche diode bin in its rectifier part number) or
* a scope on the battery terminal during a live disconnect test
* under load -- not a simulation.
*
* Parameters chosen, and why:
*
*   Us* (clamped peak)    40 V    Taken from THIS project's own spec
*                                 (section 6, line 441-442), which already
*                                 assumes the clamped load dump tops out at
*                                 40 V -- this simulation exists to test
*                                 whether that assumption is survivable,
*                                 not to re-derive it. It also sits inside
*                                 the range research memo 06 quotes from a
*                                 secondary source (40-105 V) and above the
*                                 "commonly 35 V" figure often cited
*                                 generically for 12 V suppressed dumps.
*                                 INFERRED for this specific alternator --
*                                 see the note above.
*   Ri (source impedance) 0.5 ohm  Low end of ISO 7637-2:2011 pulse 5's
*                                 0.5-4 ohm range. Lower Ri means more
*                                 fault current for the same clamped
*                                 voltage, so it is the worst case for
*                                 the energy question this block is
*                                 actually about -- same reasoning
*                                 transient_clamp used picking Level IV
*                                 for pulse 2a.
*   td (pulse duration)   400 ms  Top of the standard's 40-400 ms range,
*                                 worst case for absorbed energy.
*   tr (rise time)        5 ms    Bottom of the standard's 5-10 ms range,
*                                 i.e. the faster (worse) of the two.
*   fall time              5 ms   NOT in the standard -- the standard only
*                                 specifies rise time. Mirrored off tr for
*                                 a symmetric trapezoid. INFERRED, and it
*                                 barely matters: td dominates the energy
*                                 integral by two orders of magnitude.
*
* The pulse shape here is a trapezoid (flat top), the same
* simplification transient_clamp used for pulse 2a. The real
* standard's pulse 5 is closer to an exponential decay; td is
* usually defined as the time the pulse stays above 10% of peak.
* A flat top at the FULL peak for the whole 400 ms is therefore
* pessimistic relative to the real waveform shape -- which is the
* right direction to be pessimistic in for a survivability check.
*
* Same TVS as transient_clamp: SMBJ33CA-class, 33 V working,
* 36.7 V breakdown. Reusing it deliberately -- the question this
* block answers is whether the part already chosen for pulse 2a
* also survives 5b, not picking a new part and tuning it to pass.
* ============================================================

.model TVS D(Is=1e-12 N=1.6 Rs=0.35 BV=36.7 IBV=1e-3)

* Source: 13.5 V baseline, 5 ms rise to 40 V, 400 ms flat top,
* 5 ms fall back to baseline, then settle.
Vpulse src 0 PWL(0 13.5  5m 13.5  10m 40  410m 40  415m 13.5  460m 13.5)
Rsrc src bat 0.5

* Ammeter in series with the TVS so its dissipated energy can be
* integrated in the checks -- v(bat)*i(Vamm) is the power into D1.
Vamm bat dtvs 0
D1   0   dtvs TVS
C1   bat 0    10u
Rload bat 0   50

.control
tran 20u 460m
wrdata load_dump.dat v(bat) v(src) i(Vamm)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE
* ------------------------------------------------------------
* The TVS clamps to 38.1 V (close to its 36.7 V breakdown, as
* expected -- Us* = 40 V only just exceeds it) and holds there for
* the full 400 ms plateau at a constant 3.04 A. Peak clamp voltage
* stays under the buck's 100 V rating and under 60 V by a wide
* margin -- the VOLTAGE side of this looks fine, the same way it
* did for pulse 2a.
*
* The energy side does not. v(bat)*i(D1) during the plateau is
* ~116 W, continuously, for 400 ms; integrating over the whole
* pulse gives ~46.4 J absorbed by the TVS. SMBJ-series parts (this
* breakdown bin included) are rated by their vendors for a single
* ISO-style 10/1000 us exponential pulse -- commonly quoted around
* 600 W peak, which integrates to well under 1 J for that pulse
* shape -- and for a steady-state power dissipation on the order
* of 1-3 W (typical across SMBJ-series datasheets, e.g.
* Littelfuse/Vishay/onsemi bins of this part; no specific
* manufacturer part number has been chosen yet, so this is a class
* figure, not a pulled datasheet number). 46.4 J is roughly two
* orders of magnitude past a plausible single-pulse energy rating,
* and 116 W is roughly two orders of magnitude past the continuous
* dissipation rating. The part does not survive this pulse. That
* conclusion does not depend on exactly which SMBJ-series
* datasheet number is used -- the gap is too large.
*
* This is the correct failure mode to have found: a TVS sized
* against pulse 2a's peak voltage was never sized against pulse
* 5b's energy, because nothing before this block asked the energy
* question.
*
* THE VERDICT HINGES ON ONE INEQUALITY -- Us* vs the TVS breakdown.
* Checked by re-running this netlist at Us* = 35 V, the figure most
* commonly quoted for a 12 V suppressed dump:
*
*     Us* = 40 V  ->  v(bat) 38.1 V, TVS 3.04 A,  46.4 J   FAIL
*     Us* = 35 V  ->  v(bat) 34.7 V, TVS 0.000 A,  0.0 J   pass
*
* At 35 V the TVS never reaches its 36.7 V breakdown, conducts
* nothing, and there is no energy problem at all. The entire
* failure is created by choosing Us* = 40 V, which is above the
* part's breakdown -- and that 40 V came from this project's own
* spec, not from a measurement of this alternator. So the block
* does not show "an SMBJ33CA cannot survive a suppressed load
* dump". It shows something sharper:
*
*   A TVS whose standoff voltage sits BELOW the clamped load-dump
*   level is forced to conduct during a perfectly normal event,
*   and then has to absorb it.
*
* transient_clamp.cir's RESULT NOTE already predicted this in
* prose -- it warned against a lower-voltage TVS because it "would
* clamp during a legitimate suppressed load dump and have to
* absorb its energy". This block is that warning with numbers, and
* it shows 33 V standoff is ALREADY low enough to trigger it.
*
* That reframes the fix. The energy does not have to be absorbed:
* raise the standoff above the dump level (an SMBJ40CA/45CA-class
* part, standoff above Us*) and the TVS simply stays off through
* the dump, while the buck -- rated 100 V -- rides 40 V without
* complaint. That is a part-number change, not an active clamp.
* Energy absorption only becomes unavoidable under pulse 5a
* (unsuppressed, 65-87 V), where nothing downstream can ride it
* out. Which makes the alternator question in the header the
* single fork this whole stage's topology hangs on, not a caveat.
*
* The 5 A fuse drawn on the schematic does not rescue the failing
* case: 3.04 A is 0.6x its rating and it will not clear in 400 ms.
*
* What would actually work: a part whose energy rating is stated
* for hundreds-of-ms pulses, not microsecond ones. That points at
* an automotive load-dump-rated TVS (e.g. the AutoEfuse/TPSMB or
* SMCJ/5KP-class parts marketed explicitly "for ISO 7637-2 pulse
* 5" carry joule ratings in that range) or, more robustly, an
* active clamp: a crowbar SCR or a MOSFET-based clamp that
* diverts the fault current into a resistor or fuse sized for the
* energy, rather than a single junction dissipating it all. Either
* way, this needs a real datasheet and a re-run of this block
* against it -- not a bigger guess at the same topology.
*
* What this model does NOT cover:
*   - Pulse 5a (unsuppressed, 65-87 V) at all -- see the header.
*     If the alternator turns out not to be suppressed, this
*     entire block is testing the wrong pulse.
*   - The TVS's actual thermal transient response (junction
*     temperature rise vs. time). This check compares absorbed
*     energy against steady-state and single-pulse ratings as
*     bounds, which is enough to call a FAIL this far outside both,
*     but a real thermal model (junction-to-lead time constant)
*     would be needed to justify a PASS this close to either bound
*     -- moot here since neither bound is close.
*   - The exponential (vs. trapezoidal) real pulse shape, and fall
*     time, which are not in the standard's own numbers -- see the
*     header.
*   - Whatever fuse or wiring impedance sits between the alternator
*     and this board in the real harness, which this block folds
*     into the single Ri = 0.5 ohm source impedance.
* ------------------------------------------------------------
